Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
chlorhexidine
 
Attending: ___.
 
Chief Complaint:
Fever, Nausea
 
Major Surgical or Invasive Procedure:
___ - Left Upper Extremity PICC Placement
___ - Right ___ F Internal-External Biliary Drain
 
History of Present Illness:
___ is a ___ yo man with hx of metastatic 
cholangiocarcinoma on observation (no evidence of disease on 
scans), recurrent cholangitis w/ MDR e coli, s/p multiple ERCPs 
(2 metal stents. Last received ERCP ___, PVT on apixaban 
with ERCP ___ c/b portobiliary fistula and active bleeding 
requiring ___ stent x 2 to R posterior portal vein, recent 
completion of 4 weeks of IV ceftaz-avibactum for MDR e coli 
hepatic abscess with oral flagyl (cdiff), presents today with 
fever.

Mr. ___ has a history of multiple complicated infections as 
noted above. He was last hospitalized ___ when he 
presented with fevers and abdominal pain. He was broadened from 
his home suppressive delafloxacin/fosfomycin to meropenem. CT 
showed a 1 cm rim enhancing lesion in the R hepatic lobe c/w 
hepatic abscess. ERCP was deferred given prior significant 
bleeding from portobiliary fistula. He underwent ___ aspiration 
w/ cultures growing MDR e coli. Postoperatively, he became 
febrile and was found to have MDR E coli bacteremia, likely from 
seeding. His repeat CT was stable but there was concern for 
thrombophlebitis as well. Based on culture data, he was 
transitioned to ceftazadime/avibactam and empiric flagyl for hx 
of C diff and discharged to complete a 4 week course.

He saw Dr. ___ in follow up on ___ and ceftaz/avi and flagyl 
was stopped at that time. His PICC was removed. He was 
recommended to start Bactrim suppression, which he started 
promptly and has not missed any doses. Of note he went to the 
appointment alone and thought that Dr. ___ instructed him to 
stop ursodiol and apixaban, so he has not taken these since 
___ morning.

Mr. ___ felt well until the night before admission, when he 
had poor appetite. The next morning, he awoke and felt extremely 
fatigued and chilly. After breakfast, he developed nausea and 
had an episode of emesis (looked like food, nonbloody, 
nonbilious). His wife checked his temperature and found it 
elevated to 101.8F.

In the ED: 101.6 F | 111 | 149/86 | 100% RA. ID was called and 
recommended restarting his ceftaz/avi and flagyl. He was given 
1L LR and 1000 IV Tylenol prior to admission.

On arrival to floor, Mr. ___ says he feels great. He is not 
currently feverish or chilly. On additional questioning, he 
denies any abdominal pain. When he presented with hepatic 
abscess he recalls very sharp right sided pain. He has not had 
chest pain, shortness of breath. He has a chronic cough and 
postnasal drip that is unchanged. He had a small fungal rash on 
his right arm that is resolving with clotrimazole as recommended 
by dermatologist and no other new rashes. He has no known sick 
contacts. He has not had dysuria. He reports he has had 3 BMs a 
day for weeks while he was on IV antibiotics and no change to 
this.
 
Past Medical History:
PAST ONCOLOGIC HISTORY: 
- ___: weight loss of about 20 lbs over 3 weeks. One day of 
gastric distention, nausea and this resolved.
- ___: started to develop intermittent nausea as well as a 
change in his bowel movements, which were previously normal once 
a day, becoming several times a day with soft stools. He states 
that over the summer, he was more fatigued than usual with 
burping. He presented to his primary care physician at which 
point he had laboratory testing, and was referred for an 
ultrasound of his liver followed by a CT of his abdomen. He was 
seen by gastroenterologist, Dr. ___, at ___ 
___ and was referred to ___ 
___ for ERCP.
- ___: Admitted for ERCP. During that period, his 
initial bilirubin was 1.6, his alkaline phosphatase 395, his AST 
was 181, ALT 251 and his CA ___ was 172.  His CEA was within 
normal limits. During this admission, he had any ERCP, which 
showed ductal dilation bilaterally, left more than right and a 
plastic stent was placed in the left hepatic duct. He was 
discharged on ___ and during his admission, his maximum 
bilirubin was 6.4.
- ___: repeat ERCP which continue to show bilateral right 
and left hepatic lobe ductal dilation with marked migration of 
the stent into the small intestine.  He had bilateral plastic 
stents placed at that time point. During his initial workup, he 
has also undergone a CT of his chest, which showed one small  
lung nodule of 3 mm in size and a MRCP of the abdomen, which 
indicated this ductal dilation and a mass at the bifurcation of 
the right anterior and left intrahepatic ducts worrisome for 
type IV ___ cholangiocarcinoma. Cytology was 
suspicious for carcinoma.
- ___: repeat ERCP with exchange of plastic for metal stent.
- ___: start of cisplatin/gemcitabine cycle ___
- ___ seen in ED for BPV 
- ___ cycle ___: hospitalized for right biliary obstruction. ERCP to 
clear stent of sludge/stones with blood ctx + pan sensitivite 
enteroccocus
- ___: cycle 3, last dose ___ and ___: hospitalized for GNR bacteremia and 
cdiff and then again for delerium, discharged home
- ___: C4 D1 Gem/Cis. C4D15 held.
- ___ completed CK. radiation and resume C5D1 Gem/Cis. Day 
15 held due to low counts and post-hospitalization. 
- ___: admitted for fever, cultures negative. Stents not 
entirely patent on CT but fevers resolved, ? viral. 
- ___: start of C6 with dose reduced gemcitabine to 800mg/m2
- ___: start of C7 with dose reduced gemcitabine to  
750mg/m2. Also received on ___.
- ___: received last dose, C8D1
- ___ and ___: hospitalized for biliary sepsis s/p perc 
chole tube
- ___: hospitalized with biliary drain obstruction, 
hemobilia s/p exchange of percutaneous biliary drain tubing, 
disimpaction of percutaneous biliary drain by, interventional 
radiology, ERCP, hepatic capsular artery embolization
- ___: admit for ecoli bacteremia with stone/sludge 
removal and on IV meropenem X 10 days; ___ admit with 
fever and PTBD replaced
- ___: admitted with replacement of his percutaneous 
biliary drain on ___ due to fever. None of his blood 
cultures returned positive during that admission.
- visited ED with fevers, chills abdominal pain on ___ and 
___. 
- admitted ___ - ___ with cholangitis, hospitalization 
complicated by hemobilia during ERCP interrogation of L CBD. 
Treated with 7d meropenem. Blood cultures negative throughout 
hospitalization. MRCP obtained ___ showed no new soft tissue 
masses.
- admitted ___ - ___ with cholangitis, ERCP deferred 
given prior hemobilia. In the absence of an obvious  target for 
decompression, ___ was not consulted for consideration of biliary 
drain replacement. Blood and urine cultures were negative. After 
discussion with the infectious disease team, the decision was 
made to treat for acute cholangitis with a 10d course of 
meropenem 500mg q6h (___), followed by  initiation of 
suppressive doxycycline 100mg DAILY (for VRE) and bactrim DS 1 
tab daily.
- admitted ___ with cholangitis and associated ESBL E coli 
bacteremia; treated with ERCP ___ with clean out of his metal 
stents and 14d meropenem. admitted ___ for fever, 
cholangitis treated w ertapenem at discharge and then after that 
transitioned to delafloxacin.

PAST MEDICAL HISTORY: 
- Cholangiocarcinoma 
- Biliary obstruction c/b cholangitis 
- Rosacea
- BPH
- Migraines controlled on Atenolol
- Arthritis of the knees and shoulder on the right
- C.diff x3
- Diabetes Mellitus diagnosed ___
- Hypertension
- Mild OSA not on CPAP
- GERD
 
Social History:
___
Family History:
Two grandparents with unknown cancers, otherwise no cancer 
history.
 
Physical Exam:
========================
Admission Physical Exam:
========================
VITALS: T 99.0 F | 125/68 | 79 | 96% RA
General: Well appearing, talkative Caucasian man, resting in bed 
comfortably.
Neuro: PERRL, Palate elevates symmetrically, alert, oriented, 
provides clear history.
HEENT: Oropharynx clear, MMM, no lesions, no palpable cervical 
or supraclavicular adenopathy.
Cardiovascular: RRR, no murmurs.
Chest/Pulmonary: Clear to auscultation bilaterally.
Abdomen: Soft, nontender, nondistended, normal bowel sounds.
Extr/MSK: No peripheral edema, WWP.
Skin: Left wrist slightly pink w/ scant amount of scale. No 
other acute rashes.

DISCHARGE EXAM:
T 98.5 BP 113/67 HR 70 R 18 SpO2 97 RA 
GEN: NAD
HEENT: Clear OP, no lesions
EYES: PERRL, anicteric
___: RRR no MRG
RESP: No increased WOB, no wheezing, rhonchi or crackles
ABD: Soft, mild, diffuse TTP, R sided PTBD in place, c/d/I, 
draining green bile
SKIN: Warm, no rash
EXT: warm, no edema
 
Pertinent Results:
===============
Admission Labs:
===============
___ 05:10PM BLOOD WBC-9.5 RBC-4.22* Hgb-8.1* Hct-27.9* 
MCV-66* MCH-19.2* MCHC-29.0* RDW-21.2* RDWSD-49.2* Plt ___
___ 05:10PM BLOOD Neuts-90.3* Lymphs-2.7* Monos-6.1 
Eos-0.1* Baso-0.1 Im ___ AbsNeut-8.59* AbsLymp-0.26* 
AbsMono-0.58 AbsEos-0.01* AbsBaso-0.01
___ 07:24AM BLOOD ___
___ 05:10PM BLOOD Glucose-166* UreaN-15 Creat-0.6 Na-136 
K-4.1 Cl-102 HCO3-19* AnGap-15
___ 05:10PM BLOOD ALT-38 AST-48* AlkPhos-299* TotBili-0.6
___ 05:10PM BLOOD Lipase-37
___ 05:10PM BLOOD Albumin-4.2 Calcium-8.8 Phos-2.4* Mg-1.6
___ 05:18PM BLOOD Lactate-2.3*

===============
Discharge Labs:
===============

___ 05:15AM BLOOD WBC-3.9* RBC-3.63* Hgb-7.0* Hct-25.2* 
MCV-69* MCH-19.3* MCHC-27.8* RDW-21.8* RDWSD-53.2* Plt Ct-86*
___ 05:15AM BLOOD ___ PTT-28.2 ___
___ 05:15AM BLOOD Glucose-133* UreaN-8 Creat-0.6 Na-140 
K-3.8 Cl-105 HCO3-26 AnGap-9*
___ 05:15AM BLOOD ALT-24 AST-25 AlkPhos-275* TotBili-0.4
___ 05:15AM BLOOD Calcium-8.0* Phos-2.7 Mg-1.9

=============
Microbiology:
=============
___ Influenza A/B PCR - Negative
___ Urine Culture - No Growth
___ Blood Culture x 2 - No Growth
___ Blood Culture - Pending

========
Imaging:
========
CXR ___
Impression: Bibasilar atelectasis. No focal consolidation to 
suggest pneumonia.

MRI Liver w/ and w/o Contrast ___
1. Multiple subcentimeter new hepatic microabscesses in segment 
VIII. No drainable fluid collection.
2. Otherwise unchanged examination from the recent prior study, 
including findings of mild cholangitis, diffuse left 
hepaticatrophy with irregular mild biliary ductal dilatation, 
splenomegaly, and sequelae of prior pancreatitis.

___ Imaging PTBD 
IMPRESSION:  
  
Successful placement of the right ___ F internal-external biliary 
drain. 

 
Brief Hospital Course:
Mr. ___ is a ___ man with DM2, BPH, multiple 
bouts of CDI, PVT on apixaban, metastatic cholangiocarcinoma on 
observation (no evidence of disease on scans), recurrent 
cholangitis with MDR E. coli s/p multiple ERCPs (2 metal stents, 
last ERCP ___ c/b portobiliary fistula and active bleeding 
requiring ___ stent x 2 to right posterior portal vein), and 
recent completion of 4 weeks of IV ceftaz-avibactum and PO 
flagyl for MDR E. coli hepatic abscesses who presents with fever 
and nausea/vomiting found to have live microabscesses.

# Sepsis ___ Liver Abscesses:
# Nausea/Vomiting: Patient presents with fever, tachycardia, and 
elevated lactate. He has recent admission for MDR E. coli 
hepatic abscess with bacteremia s/p ___ drainage s/p 4 weeks of 
antibiotics (completed ___ with radiographic resolution of the 
hepatic abscesses. Patient supposed to start Bactrim prophylaxis 
but actually took delafloxacin. On admission abdominal exam 
benign. UA, CXR, and flu negative. On admission he was started 
on ceftaz-avi and flagyl. ID was consulted. Liver MRI showed 
multiple subcentimeter new hepatic microabscesses in segment 
VIII. Multidiscplinary meeting with ERCP, ___, and ___ 
surgery to determine best course to improve biliary drainage. 
Per ___ surgery there are surgical options. Per Dr. 
___, he is not a transplant candidate, could consider 
referral to ___. He had a PICC line placed on ___. He underwent 
right-sided PTBD placement on ___. He was discharged on 
ceftaz-avi and flagyl with plan for 4-week course (Day 1 ___, 
to be completed ___. He will follow-up with have a repeat 
liver MRI on ___ and follow-up Dr. ___ in ___ clinic on ___.

# Iron Deficiency Anemia: Overall stable. No evidence of active 
bleeding. He received ferric gluconate 125mg on ___ and ___ 
without issue. Continued home folate. IV ferraheme infusion 
scheduled on ___.

# Cholangiocarcinoma: Currently on surveillance. Treated with 
gem/cis and RT, last received chemo ___. No evidence of 
disease on q6 month scans alternating between MRI and CT torso. 
Continued home ursodiol.

# Hypophosphatemia:
# Hypomagnesmia: Monitored and repleted PRN.

# PVT
- Continue home apixaban.

# Thrombocytopenia: Stable. Continue to monitor.

# BPH: Continued home finasteride and Tamsulosin.

# Allergic Rhinitis: Continued home loratadine and fluticasone.

# GERD:Continued home protonix.

#Billing: >30 minutes were spent preparing paperwork, 
coordinating with outpatient providers and preparing 
prescriptions
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Dronabinol 5 mg PO QHS
2. Finasteride 5 mg PO QHS
3. Fluticasone Propionate NASAL 2 SPRY NU BID
4. Loratadine 10 mg PO DAILY
5. Pantoprazole 40 mg PO QHS
6. Tamsulosin 0.4 mg PO QHS
7. Apixaban 5 mg PO BID
8. Ursodiol 300 mg PO BID
9. Sulfameth/Trimethoprim DS 1 TAB PO BID
10. FoLIC Acid 1 mg PO DAILY
11. Clotrimazole Cream 1 Appl TP BID
12. Chloraseptic Throat Spray 1 SPRY PO Q4H:PRN sore throat
13. Psyllium Powder 1 PKT PO BID
 
Discharge Medications:
1.  CefTAZidime-Avibactam (Avycaz) 2.5 g IV Q8H 
Plan for 4-week course (Day ___, projected end date ___. 
RX *ceftazidime-avibactam [Avycaz] 2.5 gram Take 2.5 g IV every 
8 hours. Disp #*73 Vial Refills:*0 
2.  MetroNIDAZOLE 500 mg PO Q8H 
Plan for 4-week course (Day ___, projected end date ___. 
RX *metronidazole 500 mg Take 1 tablet by mouth every 8 hours. 
Disp #*71 Tablet Refills:*0 
3.  OxyCODONE (Immediate Release) 5 mg PO Q6H:PRN Pain - 
Moderate 
RX *oxycodone 5 mg Take 1 tablet by mouth every 6 hours Disp 
#*28 Tablet Refills:*0 
4.  Apixaban 5 mg PO BID  
5.  Chloraseptic Throat Spray 1 SPRY PO Q4H:PRN sore throat  
6.  Clotrimazole Cream 1 Appl TP BID  
7.  Dronabinol 5 mg PO QHS  
8.  Finasteride 5 mg PO QHS  
9.  Fluticasone Propionate NASAL 2 SPRY NU BID  
10.  FoLIC Acid 1 mg PO DAILY  
11.  Loratadine 10 mg PO DAILY  
12.  Pantoprazole 40 mg PO QHS  
13.  Psyllium Powder 1 PKT PO BID  
14.  Tamsulosin 0.4 mg PO QHS  
15.  Ursodiol 300 mg PO BID  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary Diagnosis:
- Sepsis ___ Liver Abscesses
- Nausea/Vomiting
- Cholangiocarcinoma
- Hypophosphatemia
- Hypomagnesmia
- Portal Vein Thrombus
- Iron Deficiency Anemia
- Thrombocytopenia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you at the ___ 
___. You were admitted to the hospital with 
fevers. You had a liver MRI and were found to have very small 
abscesses in your liver. You were restarted on antibiotics.

There was a discussion between the GI team, Interventional 
Radiology team, and Liver Surgery team. After reviewing your 
case, they determined the best way to prevent recurrence of the 
infection was to have the Interventional Radiologist placed a 
biliary drain.

You will complete a 4-week course of antibiotics with the IV 
CefTAZidime-Avibactam (Avycaz) and oral Metronidazole (Flagyl). 
You will have a repeat liver MRI on ___. You will then 
see Dr. ___ in clinic on ___ to review the results of the 
MRI and confirm that you can stop your antibiotics.

You had anemia (low red blood cells) and iron deficiency. You 
received intravenous iron while in the hospital. You will return 
to clinic on ___ to receive your next dose of 
intravenous iron.

All the best,
Your ___ Team
 
Followup Instructions:
___